US05304563
Ethyl 2-[3-trifluoromethylthio-4-(quinolin-2-yl-methoxy)phenyl]acetate
In analogy to the procedure of Example XIV, the title compound is prepared from 10 g (0.036 mol) of ethyl 4-hydroxy-3-trifluoromethylthiophenylacetate, 7.7 g (0.036 mol) of 2-chloromethylquinoline and 2.88 g (0.072 mol) of sodium hydroxide.

reactant | ethyl 4-hydroxy-3-trifluoromethylthiophenylacetate | 0.036 mol, 10 g | OC1=C(C=C(C=C1)CC(=O)OCC)SC(F)(F)F | C11H11F3O3S
reactant | 2-chloromethylquinoline | 0.036 mol, 7.7 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | sodium hydroxide | 0.072 mol, 2.88 g | [OH-].[Na+]
product | Ethyl 2-[3-trifluoromethylthio-4-(quinolin-2-yl-methoxy)phenyl]acetate | FC(SC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)CC(=O)OCC)(F)F | C21H18F3NO3S
